US05114461
A solution of 4-chloro-2-nitrobenzoyl chloride (4.4 g) in dry dichloromethane (5 ml) was added at 5°-10° C. to a stirred solution of 5-phenylcyclohexane-1,3-dione [3.7 g] and triethylamine (2.8 ml) in dry dichloromethane (50 ml), and the mixture was stirred at ambient temperature for 18 hours. Triethylamine (8.4 ml) and acetone cyanohydrin (0.4 ml) were added successively to the solution and the mixture was stirred at ambient temperature for 4 hours. The resulting solution was washed successively with 2N hydrochloric acid (25 ml) and water (3×25 ml), dried over sodium sulphate and evaporated under reduced pressure to give a brown solid which was recrystallised from acetonitrile to give 2-(4-chloro-2-nitrobenzoyl)-5-phenylcyclohexane-1,3-dione (4.2 g), mp 144°-145° C., as a light cream crystalline solid.

reactant | 4-chloro-2-nitrobenzoyl chloride | 4.4 g | ClC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 5-phenylcyclohexane-1,3-dione | 3.7 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | Triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 0.4 ml | CC(C#N)(O)C | C4H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(4-chloro-2-nitrobenzoyl)-5-phenylcyclohexane-1,3-dione | 4.2 g | ClC1=CC(=C(C(=O)C2C(CC(CC2=O)C2=CC=CC=C2)=O)C=C1)[N+](=O)[O-] | C19H14ClNO5
